US07960552B2
To a solution of triphenylphosphine (34 mg, 0.13 mmol), 2,6-dichlorophenol (21 mg, 0.13 mmol) and methyl 6-[4-({[3-(hydroxymethyl)-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-2-quinolinecarboxylate (56 mg, 0.13 mmol) was added diisopropyl azodicarboxylate (0.023 mL, 0.13 mmol). The solution was heated in a microwave reactor at 100° C. for 10 minutes. This heating was repeated again for 10 minutes. The mixture was adsorbed onto silica gel and purified by chromatography (silica gel, 0-60% ethyl acetate in hexanes gradient elution) to afford a solid that was dissolved in 2:1 tetrahydrofuran/methanol (1.5 mL). Then 1 N sodium hydroxide (0.13 mL, 0.13 mmol) was added. The solution was heated in a microwave reactor at 120° C. for 500 seconds. The mixture was concentrated and the residue was taken up with methanol. Then 10% aqueous citric acid was added and the mixture was extracted with ethyl acetate. The aqueous layer was acidified with additional citric acid until the pH was approximately 2-3 and was extracted one more time with ethyl acetate. The combined organic layers were concentrated and the residue was taken up with ether which was removed under vacuum. The resulting solid was dissolved in ethyl acetate and the solution was washed with water and brine and then concentrated to afford 6-[4-({[3-{[(2,6-dichlorophenyl)oxy]methyl}-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-2-quinolinecarboxylic acid (12 mg, 24%). 1H-NMR (400 MHz, CDCl3) δ 8.36 (d, J=9 Hz, 1H), 8.24-8.19 (m, 2H), 8.02 (d, J=10 Hz, 2H), 7.66 (d, J=9 Hz, 2H), 7.24 (d, J=9 Hz, 2H), 7.08 (d, J=9 Hz, 2H), 6.99-6.97 (m, 1H) 5.15 (s, 4H), 3.27 (3.27 (septet, J=7 Hz, 1H), 1.34 (d, J=7 Hz, 6H). HRMS (ESI) C30H24Cl2N2O5 calculated: 563.1135 (M+H)+, found: 563.1130 (M+H)+.

reactant | triphenylphosphine | 0.13 mmol, 34 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2,6-dichlorophenol | 0.13 mmol, 21 mg | ClC1=C(C(=CC=C1)Cl)O | C6H4Cl2O
reactant | methyl 6-[4-({[3-(hydroxymethyl)-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-2-quinolinecarboxylate | 0.13 mmol, 56 mg | OCC1=NOC(=C1COC1=CC=C(C=C1)C=1C=C2C=CC(=NC2=CC1)C(=O)OC)C(C)C | C25H24N2O5
reactant | diisopropyl azodicarboxylate | 0.13 mmol, 0.023 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | sodium hydroxide | 0.13 mmol, 1 N, 0.13 mL | [OH-].[Na+]
solvent | tetrahydrofuran methanol | 1.5 mL | O1CCCC1.CO
product | 6-[4-({[3-{[(2,6-dichlorophenyl)oxy]methyl}-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-2-quinolinecarboxylic acid | 12 mg, 24% | ClC1=C(C(=CC=C1)Cl)OCC1=NOC(=C1COC1=CC=C(C=C1)C=1C=C2C=CC(=NC2=CC1)C(=O)O)C(C)C | C30H24Cl2N2O5
